US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3,4-dimethoxyaniline were reacted to yield N2,N4-bis(3,4-dimethoxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.90 (d, 1H, J=1.8 Hz), 7.13 (d, 2H, J=4.8 Hz), 7.08 (d, 1H, J=8.7 Hz), 6.94 (d, 2H, J=10.5 Hz), 6.81 (d, 1H, J=8.7 Hz), 6.76 (d, 1H, J=8.7 Hz), 6.70 (s, 1H), 3.87 (s, 3H), 3.84 (s, 3H), 3.74 (s, 3H), 3..71 (s, 3H); 19F NMR (CDC3): δ −47433; LCMS: ret. time: 19.64 min.; purity: 95%; MS (m/e): 401 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3,4-dimethoxyaniline | COC=1C=C(N)C=CC1OC | C8H11NO2
product | N2,N4-bis(3,4-dimethoxyphenyl)-5-fluoro-2,4-pyrimidinediamine | COC=1C=C(C=CC1OC)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OC)OC)F | C20H21FN4O4
